US08710236B2
To a cooled (−78° C.) solution of bromo-(dimethoxy-phosphoryl)-acetic acid benzyl ester (500 mg, 1.5 mmol) in THF (10 mL) was added LHMDS (1.2 mL of a 1M solution in THF, 1.2 mmol). The reaction was warmed to 0° C. and stirred for 30 minutes, then recooled to −78° C. 4-Formyl-benzoic acid methyl ester (163 mg, 1.0 mmol) in THF (2 mL) was added dropwise, and the reaction was allowed to warm to room temperature and stirred for 18 hours. The reaction was evaporated to dryness by rotary evaporator and purified by column chromatography on silica gel eluting with 50% ethyl acetate in hexanes to yield 4-(2-Benzyloxycarbonyl-2-bromo-vinyl)-benzoic acid methyl ester (358 mg, 64%) as a mixture of E and Z isomers. 1H NMR (300 MHz, CDCl3): δ 8.33 (s, 1H), 8.05 (d, J=7.5 Hz, 1H), 7.88 (m, 2H), 7.4-7.2 (m, 7H), 5.33 (s, 1H), 5.16 (s, 2H), 3.93-3.91 (s, 3H). LC-MS m/z=376 [C18H15BrO4+H]+.

reactant | bromo-(dimethoxy-phosphoryl)-acetic acid benzyl ester | 1.5 mmol, 500 mg | C(C1=CC=CC=C1)OC(C(P(=O)(OC)OC)Br)=O | C11H14BrO5P
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-Formyl-benzoic acid methyl ester | 1.0 mmol, 163 mg | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(2-Benzyloxycarbonyl-2-bromo-vinyl)-benzoic acid methyl ester | 358 mg, 64% | COC(C1=CC=C(C=C1)C=C(Br)C(=O)OCC1=CC=CC=C1)=O | C18H15BrO4
